Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"hold on, I need to call this person I just met"
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
On initial interview in the Emergency Department: 
  Interview limited by ___'s tangentiality and need to be
taken to imaging. However given this, author was able to piece
together following HPI.
  Patient reports 2 episodes of falling today. First, he was at
work on the ___ floor and saw a homeless man being approached by
a police officer. He began running down the stairs. Between the
___ and ___ floor, he missed a step and injured his ankle. He
then described an experience of "our bodies moving in sync"
referring to himself and the homeless man. Later today, he was
"dancing slowly in the rain on the wall," referring to a ___
foot wall which he had climbed out of a spontaneous desire to
walk along it. He then saw a "crystal door" with a "backwards
exit sign" that read "exit now." He followed the instructions 
and
jumped, believing himself able to "fly like superman" and
believing himself to be "invincible." He denies suicidal
intention in that moment.
  Patient was diagnosed with bipolar disorder at age ___ after
attempting suicide by overdose on LSA (a psychedelic alkaloid) 
in
the setting of a breakup with his then-boyfriend, with whom he
had also been using drugs. He was admitted to ___. He was prescribed a medication but he does not 
remember
the name and does not take it.
  Patient lives with roommates in ___ and reports performing
sexual favors for a roommate, presumably in exchange for 
housing.
He reports having unprotected sex with multiple partners. He
works at the ___. He is in the GLASS program 
(a
program for homeless LGBT youth). He does not have any 
outpatient
providers, medical or psychiatric, due to being uninsured. He 
has
used "most" substances, but in the past week has used only
marijuana ___.

REVIEW OF SYSTEMS: unable to obtain psychiatric and medical ROS
due to patient needing to go to CT scanner
- Sleep: reports 6 hours sleep/night and feeling rested

Course in Emergency Department and on Surgery Floor: 
     Patient was admitted to ___ from the ED for management of
right calcaneal fracture and pneumomediastinum s/p fall from ___s descried in above HPI. He remained in good
behavioral control in the ED and on CC7, without the use of
chemical or physical restraints. Once admitted to ___, patient
continued to display pressured speech, disorganization, and
tangentiality. Zyprexa 2.5mg BID was started, with improvement 
in
speech and thought process on subsequent interviews. 

On-Unit Interview:
     This is a ___ year old man with a history of bipolar 
disorder
who was admitted to ___ from the ED for management of right
calcaneal fracture and pneumomediastinum after jumping off a ___nd who is now transferred to Deac4 on a ___
for management of SI and manic symptoms. The patient reports
feeling "much better" today than he did three days ago. He is
cooperative and, though circumstantial, is able to answer
questions appropriately this evening. He reports that on ___
morning, he began experiencing elevated mood and high energy.
Patient gives a highly detailed, at times tangential, account of
the events leading up to his hospitalization.
     To summarize, he went to work on ___ morning (he is a
___ at a ___), and at some point during 
the
work day there was a physical altercation between a ___
security guard and a homeless man. The individual was dismissed
from the premises. Mr. ___ walked outside to approach this
person, against the advice of ___ security. "I knew I
shouldn't do it, but I just did it." He says that this person
first told him to go away and then began repeating "Kill ___!
Kill ___ This frightened the patient, as one of his friends
apparently is named ___. Upon his return to his work station,
his supervisor told him to go home for the day.
     The patient then proceeded to walk home with no shirt on in
the rain "because I truly believe in the power of the rain to
cleanse and wash away everything." He then came across a stone
wall which was a 4ft drop on one side and 15ft drop on the 
other,
and decided to walk along the top of it. "Then I saw this 
crystal
door to my right and the letters on it said 'Exit Only', but I
thought that it said 'Exit Now'. And I reached out and stepped
through the door." When asked if he was trying to kill himself,
the patient provides vague responses. "I think I was, I don't
know." Patient says that when he got to the hospital, he started
having AH of "moaning" and murmuring voices that would sometimes
say short phrases like "Yes!" or "Can you?". He denies command
hallucinations, and says that he stopped hearing these voices 
two
days ago. He denies SI while in the hospital, and denies HI/VH.
He has been sleeping well.
     The patient describes himself as "very spiritual" and says
that he "sees connections in a lot of things other people
probably wouldn't. I just make really strong personal 
connections
with the things people say and do. Someone will say something to
me and I'll feel like I'm part of them." He says that this is
something he always feels, but has become more intense in the
past week. He states that he has episodes of elevated mood,
disorientation, impulsivity, and increased magical thinking 
which
last ___ days at a time. He denies grandiosity or reduced need
for sleep.
     The patient cites his recent experience with a so-called
"spirituality group" as a stressor that he believes led to his
current episode. He was introduced to this group by a friend, 
and
ended up attending their meetings for three days over last
weekend (he was offered a "scholarship" to have their
registration fee waived). This group reportedly charges
individuals hundreds of dollars to participate in a program 
where
they engage in group discussion to "free them" of their own
judgments, etc. The patient says his experience there was very
distressing and he was pressured to do and say things he 
wouldn't
normally do, including calling family members and acquaintances
to make confessions and disclosures of various sorts.
 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
-Prior diagnoses: bipolar disorder
-Hospitalizations: twice at age ___ in ___, ___ at ___ and unable to remember name of ___
-Psychiatrist: none
-Therapist: none
Patient saw a therapist at ___ (___) for a short
period of time. ___, MPH
-Medication trials: yes, cannot remember name, not currently
taking medications
-___ trials: none
-Suicide attempts: once by overdose on LSA (reports this was an 
accidental overdose as a teen due to lack of understanding as to 
how to use the drug.) 
-Self-injurious behavior: reports that in the ___ grade, he used
to cut himself with a "razor machine". denies self harm for
several years.
-Harm to others: did not assess
-Trauma: reports emotional trauma related to estrangement from
his father and romantic breakup
-Access to weapons: denies

PAST MEDICAL HISTORY: 
**PCP: does not have established outpatient medical care
Does not have any diagnoses
 
Social History:
Substance use History:
EtOH: drinks ___ beers at parties, denies history of heavy
alcohol use
Tobacco: occasional
Illicits Drugs: smokes ___ hits of marijuana ___ days/wk, 
history
of ecstasy, LSD, cocaine, opiates, and BZD use

Forensic History:
___
Personal and Social History:
___
Family History:
Family History: 
- mother with unspecified mental health issues; patient not 
aware
of any formal diagnoses or treatments, but says "she takes care
of herself"

 
Physical Exam:
PHYSICAL EXAMINATION ON ADMISSION: 
 VS: T: 98.2F  BP: 121/82  HR: 94  RR: 16  O2 Sat: 96% 
 General: NAD
 HEENT: PERRL, MMM, OP clear.
 Neck: Supple. No adenopathy.
 Back: No significant deformity, no focal tenderness
 Lungs: CTAB; no crackles or wheezes, effort normal.
 CV: RRR; no m/r/g
 Abdomen: Soft, NT, ND.
 Extremities: No clubbing, cyanosis, or edema.
 Skin: Warm and dry, no rash or significant lesions.

NEUROLOGICAL EXAM:
CN: PERRL, EOMI , sensation intact and symmetric V1/V2/V3, smile
symmetric,  shoulder shrug intact,  tongue  midline, no atrophy
Motor: strength ___ in all four ext b/l
*Deep tendon Reflexes:
       Patellar: 2+
Sensation: to light touch intact in all four ext b/l
Gait/Romberg: gait wnl, Romberg not assessed

MENTAL STATUS EXAM:
-Appearance: mildly disheveled man who appears stated age,
sitting up on exam table, in no acute distress
-Behavior: Calm and cooperative with interview, good eye 
contact,
answers questions appropriately, asks interviewer to write down
words that he thinks are interesting 
-Mood and Affect: "pretty good", affect congruent, expansive,
normal range
-Thought process: somewhat linear, +circumstantiality, some
tangentiality
-Thought Content: denies SI/HI/AVH, not responding to internal
stimuli
-Judgment and Insight: poor/poor

  COGNITIVE EXAM:
    *Attention, *orientation, and executive function: fully
oriented to person, ___, ___, able to state the 
days
of the week backwards
    * Memory (sailboat, honesty, blue): ___ registration, ___
recall, long-term grossly intact
    *Fund of knowledge: able to recall the last three ___
presidents and current events
    Calculations: quarters in $2.25 = "9"
    Abstraction: bicycle/train = "they both go places. they both
have wheels."
    *Speech: abundant, normal tone, rate/volume/rhythm normal
    *Language: fluent, ___

PHYSICAL EXAM AT TIME OF DISCHARGE: 
Exam:
  *VS:  BP: 116/69  HR: 91  temp: 97.7F O2 sat: 98%
  
Neurological:
    *station and gait: appropriately using crutches, RLE is
non-weight bearing 
    *tone and strength: moves all extremities freely
    cranial nerves: grossly intact
    abnormal movements: none appreciated
    frontal release: not tested

MSE:   
   *Appearance: young male with chin-length orange-dyed hair, 
wearing striped shirt and sweatpants, red tattoo near right 
clavicle 
    Behavior: cooperative with exam, pleasant and engageable
   *Mood and Affect: affect is animated, euthymic (at times 
mildly euphoric)
   *Speech: mildly increased rate, regular rhythm and tone 
   *Thought process: grossly linear though mildly tangential at 
times, logical, goal-directed and future-oriented
   *Thought Content: denies SI/HI, no evidence of paranoia or 
delusions
   *Judgment and Insight: fair/fair

Cognition:
    *Attention, *orientation, and executive function: alert and 
oriented
    *Memory: intact to recent/past events
    *Fund of knowledge: average
    *Language: fluent in ___
 
Pertinent Results:
CBC: 
___ 06:25AM   WBC-5.8 RBC-4.88 HGB-15.0 HCT-44.5 MCV-91 
MCH-30.7 MCHC-33.7 RDW-12.9 RDWSD-43.0 PLT COUNT-192

BMP: 
___: BUN-11  Cr-0.9

Hgb A1C
(___) Hgb A1c: 5.5

Lipid Panel
(___): TC- 151  ___  HDL-63  LDL 75

TSH
(___): 3.4

HIV Ab 
(___): NEG

RPR
(___): non-reactive

Serum Tox:
(___): negative for ASA, EtOH, Acetaminophen, Benzos, Barbs, 
TCAs

Urine Tox: 
(___): positive for opiates, negative for benzos, barbs, 
cocaine, amphetamine, oxycodone, methadone 

CXR:
Supine portable AP view the chest provided.  Overlying EKG leads 

are present.  Lungs are clear bilaterally.  Cardiomediastinal 
silhouette appears normal.  No acute osseous injury. 
  
IMPRESSION:  
No acute findings in the chest. 

R ankle films:

FINDINGS:  
  
AP, lateral, oblique views of the right ankle provided 
demonstrate a complex fracture of the right calcaneus with 
anterior and posterior fracture lines identified.  Correlation 
with CT is advised.  On the lateral view, there is also 
suggestion of mild midfoot collapse which can also be further 
assessed at time of CT.  The mortise is symmetric.  Talar dome 
is smooth. 
  
IMPRESSION:  
Acute right calcaneal fracture, correlate with CT. 

CT Torso:

CHEST: 
  
HEART AND VASCULATURE: The thoracic aorta is normal in caliber 
without 
evidence of acute injury.  The heart, pericardium, and great 
vessels are 
within normal limits. No pericardial effusion is seen. 
  
AXILLA, HILA, AND MEDIASTINUM: No axillary, mediastinal, or 
hilar 
lymphadenopathy is present.  No mediastinal mass or hematoma.  
There is soft tissue gas within the mediastinum, primarily 
surrounding the trachea from the level of the clavicles to the 
carina (2; 17) (2; 45) consistent with pneumomediastinum, 
concerning for possible tracheal or less likely esophageal 
injury. 
  
PLEURAL SPACES: No pleural effusion or pneumothorax. 
  
LUNGS/AIRWAYS: Lungs are clear without masses or areas of 
parenchymal 
opacification.  The airways are patent to the level of the 
segmental bronchi bilaterally. 
  
BASE OF NECK: Visualized portions of the base of the neck show 
no abnormality. 
  
ABDOMEN: 
  
HEPATOBILIARY: The liver demonstrates homogenous attenuation 
throughout.  
There is no evidence of focal lesion or laceration.  There is no 

evidence of intrahepatic or extrahepatic biliary dilatation.  
The gallbladder is within normal limits. 
  
PANCREAS: The pancreas has normal attenuation throughout, 
without evidence of focal lesions or pancreatic ductal 
dilatation.  There is no peripancreatic stranding. 
  
SPLEEN: The spleen shows normal size and attenuation throughout, 

without 
evidence of focal lesion or laceration. 
  
ADRENALS: The right and left adrenal glands are normal in size 
and shape. 
  
URINARY: The kidneys are hyperenhancing bilaterally and are of 
normal and 
symmetric size.  There is no evidence of focal renal lesions or 
hydronephrosis.  There is no perinephric abnormality. 
  
GASTROINTESTINAL: The stomach is unremarkable.  Small bowel 
loops demonstrate normal caliber, wall thickness, and 
enhancement throughout.  The colon and rectum are within normal 
limits.  The appendix is not visualized.  There is no definite 
evidence of mesenteric injury but there is a paucity of 
mesenteric fat. 
  
There is no free fluid or free air in the abdomen. 
  
PELVIS: 
  
The urinary bladder and distal ureters are unremarkable.  There 
is no free 
fluid in the pelvis. 
  
REPRODUCTIVE ORGANS: The prostate and seminal vesicles are 
unremarkable. 
  
LYMPH NODES: There is no retroperitoneal or mesenteric 
lymphadenopathy.  There is no pelvic or inguinal 
lymphadenopathy. 
  
VASCULAR: There is no abdominal aortic aneurysm or 
retroperitoneal hematoma.  No atherosclerotic disease is noted. 
  
BONES: There is no acute fracture.  No focal suspicious osseous 
abnormality. 
  
SOFT TISSUES: The abdominal and pelvic wall is within normal 
limits. 
  
IMPRESSION: 
  
1. Pneumomediastinum primarily around the trachea extending from 

the level of the clavicles to the carina, is nonspecific but 
cannot exclude possible 
tracheal injury. 
2. No evidence of acute fracture. 
3. No solid organ injuries are noted. 

CT R ankle:
 
FINDINGS:  
  
There is an extensively comminuted, minimally displaced fracture 

of the 
calcaneus extending into the anterior process, as well as the 
anterior and 
posterior facet.  No additional fractures identified.  There is 
no 
calcaneocuboid or talocalcaneal dislocation.  There is moderate 
soft tissue swelling and edema within the soft tissues 
surrounding the calcaneus.  No evidence of tendon entrapment. 
  
IMPRESSION:  
  
Extensively comminuted fracture of the calcaneus extending into 
the anterior process, as well as the anterior and posterior 
facet.  No dislocation.  No evidence of tendon entrapment. No 
additional fracture. 

CXR:
Heart size and mediastinum are stable.  The pneumomediastinum 
seen on the 
chest CT is not clearly visible on the chest radiograph.  No 
evidence of 
pneumothorax.  No appreciable pleural effusion.  No 
consolidations. 
 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, Mr. ___ signed a conditional voluntary 
agreement (Section 10 & 11) and that legal status remained in 
place throughout admission.  Mr. ___ was also placed on q15 
minute checks status on admission to the psychiatric unit and 
remained on that level of observation throughout while being 
unit restricted.
 
2. PSYCHIATRIC:
#) Acute Manic Episode
On initial evaluation in the emergency department, Mr. 
___ presentation was notable for changes in sleep, 
increased energy, crying spells, and odd impulsive behaviors 
with some bizarre beliefs resulting in his unintentional fall. 
He denied suicidal intent or ideation. MSE was notable for 
hyperverbality, labile affect, disorganized thought process, 
loosening of associations, impulsivity, distractibility, and 
hypersexuality. He reports intermittent substance use 
(cigarettes, marijuana, alcohol) he denied recent use on 
presentation (serum and urine toxicology significant only for 
opiates which he received in the setting of his calcaneus 
fracture). He was started on olanzapine (zyprexa) 2.5mg PO BID 
for treatment of acute mania by the consult service which he 
tolerated well. On arrival to the psychiatry unit, Mr. ___ 
provided a linear (though at times overly inclusive) life 
narrative, reporting trauma and multiple psychosocial stressors 
throughout his upbringing. However, he attributes the recent 
onset of manic symptoms to his attendance at a retreat one week 
prior to presentation in which he feels he was hypnotized. He 
maintains that he jumped off the wall in response to a delusion 
(he observed a crystal door that he felt was an invitation to 
jump through) rather than as a suicide attempt. Mr. ___ 
tolerated uptitration of olanzapine and was discharged on a dose 
of 10mg qhs. At time of discharge, Mr. ___ was linear, 
logical, and goal-directed, expressing desire to return to work 
and his daily routine, denying any thoughts of self-harm or harm 
towards others. He continued to have a bright and at times 
expansive affect but remained in good behavioral control 
expressing the importance of medication continuation and 
outpatient follow-up.  

3. SUBSTANCE USE DISORDERS:
Mr. ___ notes a history of drug experimentation but only 
social and periodic use of alcohol, marijuana and ___ cigarettes 
on occasion. Does not appear to abuse any substances. He was 
counseled on drug use and alcohol use and the team encouraged 
abstinence upon discharge.

4. MEDICAL
#) Right Calcaneus Fracture
Mr. ___ initially presented to the trauma bay after jumping 
from a 15 foot wall. He landed on his feet and suffered an 
extensively comminuted fracture of the calcaneus with extension 
into the facets. Orthopedic surgery evaluated the patient and 
placed him in a bulky ___ dressing with short posterior leg 
splint and stirrup. He is on non-weight bearing orders from the 
orthopedic surgeons. They have replaced the splint with a cast 
as of ___ and he has been trained on crutches with the physical 
therapists to remain non-weightbearing on the right side. He 
will follow up with the orthopedic surgery clinic in 2 weeks to 
discuss possible operative repair and the cast should remain in 
place until that time.

#)Pneumomediastinum
A CT torso on the day of presentation was significant for 
pneumomediastinum that did not appear to be clinically 
significant as the patient had normal vital signs, no shortness 
of breath, no chest pain, and no crepitus. A repeat CXR the 
following day did not identify any residual pneumomediastinum. 
Both thoracic surgery and acute care surgery reviewed the 
imaging and evaluated the patient throughout his stay and agreed 
that no further workup or management was indicated for this 
issue. A tertiary survey was completed and was negative for any 
other traumatic injuries.

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
Mr. ___ was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
occupational therapy and social work groups that focus on 
teaching patients various coping skills. Mr. ___ often 
attended and participated in these groups. Mr. ___ was 
visible on the milieu and appropriately interacted with staff 
and peers.

#) COLLATERAL CONTACTS:
Mr. ___ did not have either an outpatient psychiatrist or 
therapist while admitted on Deac 4 and was referred to 
outpatient primary care and behavioral health treaters on 
discharge. 

6. INFORMED CONSENT: 
The team discussed the indications for, intended benefits of, 
and possible side effects and risks of olanzapine, in particular 
sedation and metabolic syndrome risks, and benefits of possible 
alternatives, including not taking the medication, with this 
patient.  We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any 
questions about medications with the treatment team, and 
answered the patient's questions.  The patient appeared able to 
understand and willing to take olanzapine.

7. RISK ASSESSMENT
On presentation, Mr. ___ was evaluated and felt to be at an 
increased risk of harm to himself given his acute manic 
presentation and recent fall in response to a delusion. Mr. 
___ static risk factors include chronic mental illness, 
history of abuse/trauma, history of substance abuse, history of 
self-injurious behavior, family history of mental illness, male 
gender, adolescent age, single relationship status, limited 
social supports (does not have any local family), financial 
hardship, and homosexual sexual orientation. The modifiable risk 
factors identified were as such: unpredictable behavior, 
recklessness, impulsivity, medication noncompliance, poorly 
controlled mental illness, no established outpatient providers, 
poor reality testing, sleep disturbances, and acutely stressful 
events (retreat attendance, ongoing relationship stressors). 
These modifiable risk factors were addressed with acute 
stabilization in a safe environment on a locked inpatient unit, 
psychopharmacologic adjustments, psychotherapeutic interventions 
(OT groups, SW groups, individual therapy meetings with 
psychiatrists), and presence on a social milieu environment.  
Mr. ___ is being discharged with many protective factors, 
including employment, help-seeking behavior, life satisfaction, 
future-oriented viewpoint, some strong social supports (local 
friends, in contact with sister in ___, lack of suicidal 
ideation, plan for outpatient follow-up, medication compliance 
on unit with expressed motivation to continue, spirituality, no 
chronic substance abuse, no access to lethal weapons, 
reality-testing ability, ability to tolerate rejection, good 
coping skills, some insight. Overall, based on the totality of 
our assessment at this time,  Mr. ___ is not at an acutely 
elevated risk of harm to self nor danger to others. 

Our prognosis of this patient is fair. Though his acute symptoms 
have been shown to impair his insight and judgement, he also 
expresses understanding of the importance of self-care through 
medication compliance and outpatient follow-up. Moreover, he has 
also shown resilience in the setting of many traumatic and 
stressful events in his life and continues to be optimistic and 
future-oriented. 
 
Medications on Admission:
None
 
Discharge Medications:
1.  OLANZapine 10 mg PO QHS 
RX *olanzapine 10 mg 1 tablet(s) by mouth nightly Disp #*14 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bipolar Disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Ambulatory- requires assistance or aid (crutches)

 
Discharge Instructions:
Per Psychiatry: 
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.

Per Orthopedics: 
You have a cast in place and are non-weightbearing on your right 
leg due to your right calcaneal fracture. You will be seeing the 
orthopedic surgeons in the office and have an Xray scheduled 
with them as well. They will discuss with you further plans for 
management. You should continue physical therapy during your 
psychiatric admission and beyond as directed by orthopedic 
surgery.

You should take pain medication as needed and continue stool 
softeners as well to avoid constipation.

The psychiatrists will manage your psychiatric medications and 
care.

We will also continue on heparin prophylaxis to avoid any blood 
clots related to your recent trauma.
 
Followup Instructions:
___